US06872730B2
An aqueous (50 ml) solution of NaOH (3.25 g, 81 mmol) was added to a solution of 3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenyl acetate (5 g, 16.2 mmol) in THF (50 ml). After stirring overnight at room temperature, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried, filtered, and evaporated under vacuum. The crude product was chromatographed over silica gel to yield 3.89 g (90%) of 3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenol. NMR 1H Cl3CD δ: 7.06 (t, 1H, J=8.0 Hz), 6.42 (m, 3H), 1.28 (m, 3H), 1.10 (d, 18H, J=7.0 Hz).

reactant | NaOH | 81 mmol, 3.25 g | [OH-].[Na+]
reactant | 3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenyl acetate | 16.2 mmol, 5 g | C(C)(=O)OC1=CC(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C | C17H28O3Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenol | 3.89 g, 90% | CC(C)[Si](C(C)C)(OC=1C=C(C=CC1)O)C(C)C | C15H26O2Si
